US07582629B2
4-[(4-Hydroxyphenyl)amino]-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-aminophenol in a similar manner as described for Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 3.37 (s, 3H), 3.72 (t, 2H), 3.90 (t, 2H), 6.40-6.45 (m, 2H), 6.65-6.71 (m, 2H), 6.82 (bs, 1H), 7.10-7.20 (m, 4H), 7.23-7.29 (m, 1H), 7.63 (bs, 1H); Mass Spectrum: M−H+ 373.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
product | 4-[(4-Hydroxyphenyl)amino]-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | OC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C18H18N2O5S
